US06762320B2
e) N-[4-(3-Fluoro-benzyloxy)-2-hydroxy-phenyl]-malonamide
Prepared in analogy to example 3 from N-[4-(3-fluoro-benzyloxy)-2-hydroxy-phenyl]-malonamic acid methyl ester and ammonium hydroxide. Yield=23%. Colorless solid. MS: m/e=319.4 (M++H).

reactant | N-[4-(3-fluoro-benzyloxy)-2-hydroxy-phenyl]-malonamic acid methyl ester | COC(CC(=O)NC1=C(C=C(C=C1)OCC1=CC(=CC=C1)F)O)=O | C17H16FNO5
reactant | ammonium hydroxide | [OH-].[NH4+]
product | N-[4-(3-Fluoro-benzyloxy)-2-hydroxy-phenyl]-malonamide | Yield=23% | FC=1C=C(COC2=CC(=C(C=C2)NC(CC(=O)N)=O)O)C=CC1 | C16H15FN2O4
